US07790720B2
2-fluoro-4-(4-piperidin-1-ylmethyl-oxazol-2-yl)-phenol i68 is synthesized according to the following method: a solution of 1-({2-[4-(benzyloxy)-3-fluorophenyl]-1,3-oxazol-4-yl}methyl)piperidine i63 (0.34 g, 0.94 mmol, 1 eq) in ethanol is placed under hydrogen atmosphere (20 psi) at 30° C. for 6 hours. The mixture is filtered over cellite and concentrated under vacuo to give 0.22 g of 2-fluoro-4-(4-piperidin-1-ylmethyl-oxazol-2-yl)-phenol i68 as a brown solid. This crude product is used in the next step without any purification.

reactant | 1-({2-[4-(benzyloxy)-3-fluorophenyl]-1,3-oxazol-4-yl}methyl)piperidine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=1OC=C(N1)CN1CCCCC1)F | C22H23FN2O2
solvent | ethanol | C(C)O | C2H6O
product | 2-fluoro-4-(4-piperidin-1-ylmethyl-oxazol-2-yl)-phenol | 0.22 g | FC1=C(C=CC(=C1)C=1OC=C(N1)CN1CCCCC1)O | C15H17FN2O2
